US04401827
p-isobutylphenyl-α-methyl acetyl carnitine hydrochloride
4.95 g (0.025 moles) of D,L-carnitine hydrochloride are dissolved in 8 mls of CF3COOH, and to the solution an excess (16 mls) of p-isobutylphenyl-alpha-methyl acetyl chloride is added and the mixture is kept under stirring at a temperature of 40°-45° C. for 4-5 hours. At the end of this period of time, the mixture is partitioned with H2O--CHCl3, the organic phase is discarded whereas the aqueous phase is concentrated under reduced pressure at a bath temperature of about 50° C. A gelatinous raw material is obtained which is crystallized with isopropanol. The precipitate thus obtained is filtered, rapidly washed with ether because of its hydroscopicity, and dried under vacuum at a temperature not exceeding 50° C.; 6.3 g of a product are obtained (yield 65%) having the following characteristics:

reactant | D,L-carnitine hydrochloride | 0.025 moles, 4.95 g | C[N+](C)(C)CC(CC(=O)O)O.[Cl-]
reactant | p-isobutylphenyl-alpha-methyl acetyl chloride | 16 mls | C(C(C)C)C1=CC=C(C=C1)C(C(=O)Cl)C | C13H17ClO
solvent | CF3COOH | 8 mls | C(=O)(C(F)(F)F)O | C2HF3O2
product | p-isobutylphenyl-α-methyl acetyl carnitine hydrochloride | 6.3 g, yield 65% | Cl.C(C(C)C)C1=CC=C(C=C1)C(C(O)(CC([O-])=O)C(CC)=O)[N+](C)(C)C | InChI=1S/C20H31NO4.ClH/c1-7-17(22)20(25,13-18(23)24)19(21(4,5)6)16-10-8-15(9-11-16)12-14(2)3;/h8-11,14,19,25H,7,12-13H2,1-6H3;1H
